US07989442B2
e. (±)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-4-oxo-2H-dibenzo [b,f]pyrido[1,2-d][1,4]oxazepine-1-carboxylic acid
Glutaric anhydride (7.93 g, 69.5 mmol) was added to a stirred solution of 8-bromo-3,7-difluoro-dibenz[b,f][1,4]oxazepine (14.4 g, 46.4 mmol) in xylene (30 mL) and the mixture was heated to 150° C. for 72 h. The reaction mixture was allowed to cool to ambient temperature, and diethyl ether was added. The product was collected by filtration and dried to yield the title compound which was used without further purification (16.2, 82%).

reactant | Glutaric anhydride | 69.5 mmol, 7.93 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 8-bromo-3,7-difluoro-dibenz[b,f][1,4]oxazepine | 46.4 mmol, 14.4 g | BrC1=CC2=C(OC3=C(C=N2)C=CC(=C3)F)C=C1F | C13H6BrF2NO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (±)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-4-oxo-2H-dibenzo [b,f]pyrido[1,2-d][1,4]oxazepine-1-carboxylic acid | BrC1=CC2=C(OC3=C([C@@H]4N2C(CC[C@H]4C(=O)O)=O)C=CC(=C3)F)C=C1F | C18H12BrF2NO4
